US06559145B2
2-(Morpholin-4-ylmethyl)-1,3-thiazol-5-amine [BM.4]
To a solution of 2-(4-morpholinylcarbonyl)-1,3-thiazol-5-amine (Preparation 26, 1.0 g) in THF (10 mL) under nitrogen at ambient temperature is added borane (1.0 M solution in THF, 9.39 mL). The bright yellow mixture is heated to reflux (85° C.) for 1 h. The mixture is cooled to ambient temperature, quenched with aq. NH4Cl, and extracted with EtOAc (3×75 mL). The organic layer is dried (MgSO4) and the solvent removed. The residue is purified by column chromatography (eluent 2% MeOH/CH2Cl2) to afford 329 mg (35%) of the title compound as a yellow oil. Physical characteristics: 1H NMR (CDCl3) δ 2.49, 3.61, 3.65, 6.84; MS (ESI+) m/z 200 (M+H)+.

reactant | 2-(4-morpholinylcarbonyl)-1,3-thiazol-5-amine | 1.0 g | N1(CCOCC1)C(=O)C=1SC(=CN1)N | C8H11N3O2S
reactant | borane | 1.0 M, 9.39 mL | B | BH3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(Morpholin-4-ylmethyl)-1,3-thiazol-5-amine | 329 mg, 35% | N1(CCOCC1)CC=1SC(=CN1)N | C8H13N3OS
